data/oMe_Silver.jsonl
{"reaction_id": "NR-230_1-c1ccc(OC)cc1_2-c1cccc2ccccc12","level": "hard","name": "Pummerer Rearrangement","reactants_smiles": ["O=C(C)OC(=O)C","S(=O)(Cc1ccc(OC)cc1)(c1cccc2ccccc12)"],"products_smiles": ["O=C(C)OC(c1ccc(OC)cc1)S(c1cccc2ccccc12)"],"conditions": "Acetic anhydride","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](OC([O-])(C)OC(=O)C)(Cc1ccc(OC)cc1)(c1cccc2ccccc12)","step_weight": 0,"rationale": "Acetic anhydride acylates the sulfoxide oxygen due to its high electrophilicity, generating an oxysulfonium ion stabilized by resonance with sulfur, making the α-protons more acidic."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S+](OC(=[O])(C))(Cc1ccc(OC)cc1)(c1cccc2ccccc12)","step_weight": 0,"rationale": "Elimination of acetate occurs because it is a good leaving group, forming a sulfonium species with an electron-deficient α-carbon primed for rearrangement."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](=Cc1ccc(OC)cc1)(c1cccc2ccccc12)","step_weight": 0,"rationale": "The α-carbon adjacent to the positively charged sulfur becomes electrophilic, enabling intramolecular rearrangement via C–S bond migration to stabilize the cation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)OC(c1ccc(OC)cc1)S(c1cccc2ccccc12)","step_weight": 0,"rationale": "Acetate attacks the α-carbon, displacing the sulfonium charge and forming the α-acyloxy sulfide, driven by the nucleophilicity of acetate and product stability."}],"description": "In acetic anhydride, the sulfoxide oxygen is activated toward rearrangement by electrophilic acylation, forming an oxysulfonium intermediate. This facilitates α-proton removal and rearrangement to a stabilized cation, which is trapped by acetate to yield the α-acyloxy sulfide product."}
{"reaction_id": "NR-238_1-C_2-COCC_3-c2ccc(C)cc2_4-c2ccc(Cl)cc2","level": "medium","name": "Steglich Esterification","reactants_smiles": ["CC(=O)O","c2ccc(C)cc2N=C=Nc2ccc(Cl)cc2","COCCO","CN(C)c1ccncc1"],"products_smiles": ["COCCOC(=O)C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(=O)OC(=[NH+]c2ccc(C)cc2)Nc2ccc(Cl)cc2","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)C","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(OCOCC)C","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "COCCOC(=O)C","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
